US08115017B2
(2) Preparation of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-formyl-4-methylphenyl]-5-thio-D-glucopyranose
To a solution of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-(1,3-dioxolan-2-yl)-4-methylphenyl]-5-thio-D-glucopyranose (11.1 g, 13.5 mmol) in tetrahydrofuran (100 mL), 6N hydrochloric acid (100 mL) was added under ice cooling and stirred at room temperature for 12 hours. After addition of water under ice cooling, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After filtering off the desiccant, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the titled compound (10.1 g, quant.) as a light-yellow oily compound.

reactant | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-(1,3-dioxolan-2-yl)-4-methylphenyl]-5-thio-D-glucopyranose | 13.5 mmol, 11.1 g | C(C1=CC=CC=C1)O[C@H]1C(O)(S[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C1OCCO1)C)OCC1=CC=CC=C1 | C51H52O8S
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 6N, 100 mL | Cl | ClH
product | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-formyl-4-methylphenyl]-5-thio-D-glucopyranose | 10.1 g | C(C1=CC=CC=C1)O[C@H]1C(O)(S[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C=O)C)OCC1=CC=CC=C1 | C49H48O7S
